US07632857B2
(4′-Ethanesulfonyl-3-fluoro-biphenyl-4-yl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure A′, T′ and B′ starting from 4-bromo-2-fluoro-benzoic acid, 4-ethanesulfonylphenyl boronic acid and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (M+H) 459.2

reactant | 4-bromo-2-fluoro-benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 4-ethanesulfonylphenyl boronic acid | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | (4′-Ethanesulfonyl-3-fluoro-biphenyl-4-yl)-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | C(C)S(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C)F | C25H31FN2O3S
